US07482366B2
1-Bromo-3-ethylsulfanyl-5-trifluoromethyl-benzene (1.33 g, 4.7 mmoles) was placeD into a 50 mL pear-shaped flask and was sealed under nitrogen. The material was then solubilized with 25 mL of anhydrous DMSO, and the resulting solution was degassed by passing a steady stream of nitrogen through the solution for 10 min. In a separate round-bottom flask were combined bis(pinacolato)diboron (1.3 g, 5.1 mmoles), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with DCM (1:1) (0.11 g, 0.13 mmoles) and potassium acetate (1.4 g, 14.3 mmoles) with a stirring bar under nitrogen. Following degassification the bromide solution was transferred to the “catalytic” mixture and the resulting mix was stirred at 90° C. for 16 hours. After this period the reaction mix was combined with 100 mL of water and was extracted with benzene (4×30 mL). The combined benzene layer was washed with water (4×50 mL) and was dried over anhydrous Na2SO4. Following evaporation in vacuo the crude product was purified using flash silica chromatography (0-1% EtOAc/Hexane) to yield 2-(3-ethylsulfanyl-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (651 mg, 41% yield) was a thick, clear liquid. Note: TLC visualization accomplished using ceric ammonium molybdate stain. 1H-NMR (CDCl3): δ 7.89 (s, 1H), 7.83 (s, 1H), 7.60 (s, 1H), 3.01 (q, J=7.3 Hz, 2H), 1.35 (s, 12H), 1.33 (t, J=7.3 Hz, 3H).

reactant | 1-Bromo-3-ethylsulfanyl-5-trifluoromethyl-benzene | 4.7 mmoles, 1.33 g | BrC1=CC(=CC(=C1)C(F)(F)F)SCC | C9H8BrF3S
reactant | bis(pinacolato)diboron | 5.1 mmoles, 1.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.13 mmoles, 0.11 g | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 14.3 mmoles, 1.4 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 2-(3-ethylsulfanyl-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 651 mg, 41% yield | C(C)SC=1C=C(C=C(C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C15H20BF3O2S
